US08957064B2
6-(3-fluorophenyl)-2-methyl-5-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidine
323 mg (1.02 mmol) 2-Methyl-6-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 8.8 mL NMP. After addition of 0.34 mL triethylamine the reaction mixture is stirred for two hours. 340 mg (1.02 mmol) 4-[6-(3-Fluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]-benzaldehyde and 0.1 mL acetic acid are added. The reaction mixture is stirred over night at room temperature. 251 mg (1.12 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for 6 hours. The reaction mixture is treated with saturated NaHCO3. The precipitate is filtered off, washed with water and dried. After purification by preparative HPLC 13.2 mg (2.3%) of the desired product are obtained.

reactant | 2-Methyl-6-(5-piperidine-4-yl-2H-[1,2,4]triazole-3-yl)-pyridine | 1.02 mmol, 323 mg | CC1=NC(=CC=C1)C=1NN=C(N1)C1CCNCC1 | C13H17N5
reactant | 4-[6-(3-Fluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl]-benzaldehyde | 1.02 mmol, 340 mg | FC=1C=C(C=CC1)C=1C(=NC=2N(C1)N=C(N2)C)C2=CC=C(C=O)C=C2 | C19H13FN4O
reactant | NaBH(OAc)3 | 1.12 mmol, 251 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 8.8 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.34 mL | C(C)N(CC)CC | C6H15N
product | 6-(3-fluorophenyl)-2-methyl-5-(4-{4-[5-(6-methylpyridine-2-yl)-1H-[1,2,4]triazole-3-yl]-piperidine-1-ylmethyl}-phenyl)-[1,2,4]triazolo[1,5-a]pyrimidine | FC=1C=C(C=CC1)C=1C(=NC=2N(C1)N=C(N2)C)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC(=CC=C2)C | C32H30FN9
